US07737295B2
Step A: 2-Iodo-4-ethylanisole
A mixture of silver sulfate (1.15 g, 3.68 mmol) and iodine (0.93 g, 3.68 mmol) were stirred in methanol at room temperature. A solution of p-ethylanisole (0.50 g, 3.68 mmol) in methanol was added dropwise to the stirring mixture. The mixture was stirred at room temperature until completion of the reaction. It was filtered and the filtrate was concentrated. The residue was dissolved in methylene chloride, washed with 1 N sodium hydroxide, dried over anhydrous sodium sulfate, filtered and concentrated. The title compound was obtained without further purification. 1H NMR (CDCl3, 500 MHz) δ 7.64 (d, J=2.0 Hz, 1H), 7.15 (dd, J=8.5, 2.0 Hz, 1H), 6.77 (d, J=8.0 Hz, 1H), 3.88 (s, 3H), 2.58 (q, J=15.5, 8.0 Hz, 2H), 1.23 (t, J=7.5 Hz, 3H).

reactant | iodine | 3.68 mmol, 0.93 g | II | I2
reactant | p-ethylanisole | 3.68 mmol, 0.50 g | C(C)C1=CC=C(C=C1)OC | C9H12O
solvent | methanol | CO | CH4O
catalyst | silver sulfate | 3.68 mmol, 1.15 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 2-Iodo-4-ethylanisole | IC1=C(C=CC(=C1)CC)OC | C9H11IO
